US06849619B2
7bR,11aS)-6-(2,6-difluorophenyl)-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole
Using 2,6-difluorophenyl boronic acid and following the procedures described in EXAMPLE 9, tert-butyl (7bR,11aS)-6-bromo-1,2,7b,10,11,11a-hexahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole-9(8H)-carboxylate was converted into the title compound of EXAMPLE 14. 1H NMR (CDCl3, 300 MHz): δ 7.19 (m, 1H), 6.93 (m, 2H), 6.83 (m, 3H), 3.81 (m, 2H), 3.59 (m, 1H), 3.41 (m, 1H), 3.21 (m, 2H), 3.0 (m, 2H), 2.82 (m, 3H), 2.60 (m, 1H), 1.80 (m, 2H). LRMS (ES+): 359 (M+H)+.

reactant | 2,6-difluorophenyl boronic acid | FC1=C(C(=CC=C1)F)B(O)O | C6H5BF2O2
reactant | tert-butyl (7bR,11aS)-6-bromo-1,2,7b,10,11,11a-hexahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole-9(8H)-carboxylate | BrC=1C=C2[C@H]3[C@@H](N4C2=C(C1)CSCC4)CCN(C3)C(=O)OC(C)(C)C | C19H25BrN2O2S
product | 6-(2,6-difluorophenyl)-1,2,7b,8,9,10,11,11a-octahydro-4H-pyrido[4,3-b][1,4]thiazepino[6,5,4-hi]indole | FC1=C(C(=CC=C1)F)C=1C=C2C3C(N4C2=C(C1)CSCC4)CCNC3 | C20H20F2N2S
